US08975254B2
b) 4-(1-(2-(1,3-dioxoisoindolin-2-yl)ethyl)-1H-pyrazol-3-yl)-2-methylbenzonitrile
2-Methyl-4-(1H-pyrazol-3-yl)benzonitrile (0.949 g, 5.2 mmol) was reacted with N-(2-bromoethyl)phthalimide (1.58 g, 6.2 mmol) using the method of Example 27(a). Crude product was purified by chromatography (CombiFlash, silica column, eluent: 0-100% EtOAc/heptane) to yield 0.590 g (32%) of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 2.36 (s, 3H), 3.99 (t, 2H), 4.44 (t, 2H), 6.76 (d, 1H), 7.44 (s, 1H), 7.46 (m, 1H), 7.62 (d, 1H), 7.83 (m, 5H).

reactant | 2-Methyl-4-(1H-pyrazol-3-yl)benzonitrile | 5.2 mmol, 0.949 g | CC1=C(C#N)C=CC(=C1)C1=NNC=C1 | C11H9N3
reactant | N-(2-bromoethyl)phthalimide | 6.2 mmol, 1.58 g | BrCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO2
product | 4-(1-(2-(1,3-dioxoisoindolin-2-yl)ethyl)-1H-pyrazol-3-yl)-2-methylbenzonitrile | 0.590 g, 32% | O=C1N(C(C2=CC=CC=C12)=O)CCN1N=C(C=C1)C1=CC(=C(C#N)C=C1)C | C21H16N4O2
